US07214689B2
Step A: Methyl cyano(3-methoxyphenyl)acetate
Twenty five grams of (3-methoxyphenyl)acetonitrile are dissolved in 200 ml of anhydrous THF in an Erlermeyer ground-necked flask. 60% sodium hydride (8.88 g; 0.37 mol) is added to the solution and the reaction mixture is heated at reflux for 30 minutes with stirring. Dimethyl carbonate (58 ml; 0.6814 mol) is then added dropwise in the course of half an hour and the reaction mixture is subsequently heated at reflux for 2 hours with stirring. The reaction mixture is poured into cold and slightly acidic water. The aqueous phase is extracted with ether, and then the ethereal phase is washed with water before being evaporated. A solution of potassium carbonate (47.15 g; 0.34 mol ) is added to the oil obtained above. After stirring, the mixture is washed with ether. The ethereal phase obtained is rewashed with a solution of potassium carbonate (12.02 g; 0.08 mol). The two aqueous phases are combined, immediately acidified, and extracted with ether. The organic phase so obtained is washed with a 10% sodium hydrogen carbonate solution, dried over magnesium sulphate and evaporated under reduced pressure to yield the title product in the form of an orangey yellow oil.

reactant | (3-methoxyphenyl)acetonitrile | Twenty five grams | COC=1C=C(C=CC1)CC#N | C9H9NO
reactant | sodium hydride | 0.37 mol, 8.88 g | [H-].[Na+]
reactant | Dimethyl carbonate | 0.6814 mol, 58 ml | C(OC)(OC)=O | C3H6O3
reactant | potassium carbonate | 0.34 mol, 47.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 0.08 mol, 12.02 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | Methyl cyano(3-methoxyphenyl)acetate | C(#N)C(C(=O)OC)C1=CC(=CC=C1)OC | C11H11NO3
